US20010027196A1
2-Amino-4-(3,5-dimethyl-pyrazol-1-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile
From 2-amino-4-bromo-6-methylsulfanyl-pyrimidine-5-carbonitrile, 3,5-dimethylpyrazole and cesium carbonate in NMP. EI-MS m/e (%): 259 ([M—H]−, 100).

reactant | 2-amino-4-bromo-6-methylsulfanyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)Br)C#N)SC | C6H5BrN4S
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 2-Amino-4-(3,5-dimethyl-pyrazol-1-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)N1N=C(C=C1C)C)C#N)SC | C11H12N6S
